US05731315
C. 5-Chlorothieno[3,2-b]pyridine-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide
The title compound is prepared from 3-(3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-benzonitrile hydrochloride as described in EXAMPLE 1, Part E using 5-chlorothieno[3,2-b]pyridine-2-sulfonyl chloride in place of benzo[b]thiophene-2sulfonyl chloride. The product is obtained as a white solid.

reactant | 3-(3-(S)-amino-2-oxo-pyrrolidin-1-ylmethyl)-benzonitrile hydrochloride | Cl.N[C@@H]1C(N(CC1)CC=1C=C(C#N)C=CC1)=O
reactant | 5-chlorothieno[3,2-b]pyridine-2-sulfonyl chloride | ClC1=CC=C2C(=N1)C=C(S2)S(=O)(=O)Cl | C7H3Cl2NO2S2
product | 5-Chlorothieno[3,2-b]pyridine-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxo-pyrrolidin-3-(S)-yl]-amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C2=CC3=NC(=CC=C3S2)Cl)=O)C=CC1 | C19H15ClN4O3S2
